US04382939
3-[2-(Diethylamino)propyl]-1,2,3,4-tetrahydro-8-methoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one
Prepared by the method described for Example 59 from 3-[2-(ethylamino)propyl]-1,2,3,4-tetrahydro-8-methoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one (3.0 g, 0.009 moles), glacial acetic acid (20 ml), and sodium borohydride (2.5 g, 0.066 moles). The free base is obtained crystalline. Recrystallization from isopropyl ether gave the product (1.9 g), mp 83°-85° C.

reactant | 3-[2-(ethylamino)propyl]-1,2,3,4-tetrahydro-8-methoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 0.009 moles, 3.0 g | C(C)NC(CN1CC2=C(CC1)C1=C(OC2=O)C=C(C=C1)OC)C | C18H24N2O3
reactant | sodium borohydride | 0.066 moles, 2.5 g | [BH4-].[Na+]
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 3-[2-(Diethylamino)propyl]-1,2,3,4-tetrahydro-8-methoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 1.9 g | C(C)N(C(CN1CC2=C(CC1)C1=C(OC2=O)C=C(C=C1)OC)C)CC | C20H28N2O3
